US08247415B2
2-[4-(Aminocarbonyl)-1H-1,2,3-triazol-1-yl]propanoic acid was prepared from commercially available propiolamide and tert-butyl 2-azidopropanate using a procedure analogous to that used to prepare Intermediate 52. 1HNMR (500 MHz, CD3OD) δ: 8.48 (s, 1H), 5.50 (q, J=7.3 Hz, 1H), 1.85 (d, J=7.3 Hz, 3H). LC-MS: m/z (ES) 185 (MH)+.

reactant | propiolamide | C(C#C)(=O)N | C3H3NO
reactant | tert-butyl 2-azidopropanate | N(=[N+]=[N-])C(C(=O)OC(C)(C)C)C | C7H13N3O2
product | 2-[4-(Aminocarbonyl)-1H-1,2,3-triazol-1-yl]propanoic acid | NC(=O)C=1N=NN(C1)C(C(=O)O)C | C6H8N4O3
